US04876247
(a) 5-(Pyridin-2-ylthio)valeronitrile
10 g of 2-mercaptopyridine and 20 g of 6-bromo-valeronitrile are added successively to a solution of 2.26 g of sodium in 200 ml of methanol. After heating under reflux for 3 hours, the mixture is concentrated in vacuo. The residue is taken up with 200 ml of ether. The solution is washed with water and then dried and concentrated; this gives 15 g of the expected nitrile, which is characterized by an Rf of 0.39 in thin layer chromatography on silica (silica gel 60 F 54: Merck) with isopropyl ether as the eluent.

reactant | 2-mercaptopyridine | 10 g | SC1=NC=CC=C1 | C5H5NS
reactant | sodium | 2.26 g | [Na] | Na
solvent | methanol | 200 ml | CO | CH4O
product | 5-(Pyridin-2-ylthio)valeronitrile | N1=C(C=CC=C1)SCCCCC#N | C10H12N2S
